US07956191B2
3-(4-Trifluoromethylsulfanyl-phenylamino)-isonicotinic acid
3-Fluoro-isonicotinic acid (50 mg, 0.354 mmol) and 4-(trifluoromethylthio)aniline (68.5 mg, 0.354 mmol) was added to 2 ml dry THF and the mixture was cooled to −78° C. LiHMDS (1M in THF, 1.24 ml) was added and the mixture was allowed to warm to room temperature over night. Hydrochloric acid (1M in methanol, 5 ml) was added and the volatiles were removed in vacuo. The crude material was purified by preparative HPLC to give 11.4 mg (45 μmol; 10% yield) of pure desired product. LC-MS (method V): rt=3.09 min; m/z [M+H]+ 315.

reactant | 3-Fluoro-isonicotinic acid | 0.354 mmol, 50 mg | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | 4-(trifluoromethylthio)aniline | 0.354 mmol, 68.5 mg | FC(SC1=CC=C(N)C=C1)(F)F | C7H6F3NS
reactant | LiHMDS | 1M, 1.24 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Hydrochloric acid | 1M, 5 ml | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-(4-Trifluoromethylsulfanyl-phenylamino)-isonicotinic acid | 10% yield | FC(F)(F)SC1=CC=C(C=C1)NC1=C(C(=O)O)C=CN=C1 | C13H9F3N2O2S
